US07405231B2
A suspension of 250 mg (0.74 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole, 90 mg (0.74 mmol) 4-hydroxy-benzaldehyde, 147 mg (0.45 mmol) cesium carbonate and 123 mg (0.74 mmol) potassium iodide in 25 ml butanone was stirred at 60° C. over night. After evaporation, the residue was quenched with water and extracted with ethyl acetate. The extract was washed with sodium hydroxide solution and water, dried, concentrated and purified on silica. Elution with heptane/ethyl acetate 5:1 containing 1% acetic acid yielded 245 mg (78%) 4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzaldehyde as white crystals, melting at 144-147° C.

reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.74 mmol, 250 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | 4-hydroxy-benzaldehyde | 0.74 mmol, 90 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cesium carbonate | 0.45 mmol, 147 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.74 mmol, 123 mg | [I-].[K+]
solvent | butanone | 25 ml | CC(CC)=O | C4H8O
product | 4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzaldehyde | 245 mg, 78% | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=O)C=C1)(F)F | C20H14F3NO4S
